US04493533
A solution of 8.5 ml of 2,2'-thiodiethanol (thiodiethyleneglycol) in 100 ml of pyridine is placed at -5° C. under argon gasification and treated dropwise within 10 minutes with 9.5 ml of benzoyl chloride. Thereby, the resulting mixture warms to about +8° C. and towards the end of the addition white crystals begin to precipitate. Subsequently, the mixture is stirred at room temperature for a further 36 hours and then the majority of the pyridine is distilled off on a rotary evaporator. The semicrystalline residue is added to 100 ml of ice-cold 2N hydrochloric acid and extracted three times with 100 ml of diethyl ether each time. The organic phases are washed twice with 100 ml of water each time and once with 100 ml of saturated sodium chloride solution, dried over magnesium sulfate and concentrated. Low-pressure chromatography (0.5 bar) of the residue (about 14 g) on silica gel with the use of toluene/ethyl acetate (3:1) as the elution agent gives in succession 1.5 g (5.5 percent) of crystalline dibenzoate and 11 g (59 percent) of 2-[(2-hydroxyethyl)thio]ethyl benzoate as a colorless, viscous oil. After bulb-tube distillation (160°-170° C./0.20-0.16 mm Hg) of the latter, there are obtained 9.7 g (52.4 percent) of 2-[(2-hydroxyethyl)thio]ethyl benzoate in 99.4 percent purity; nD23 =1.5566.

reactant | 2,2'-thiodiethanol | 8.5 ml | S(CCO)CCO | C4H10O2S
reactant | benzoyl chloride | 9.5 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2-[(2-hydroxyethyl)thio]ethyl benzoate | 11 g, 59 percent | C(C1=CC=CC=C1)(=O)OCCSCCO | C11H14O3S
